US07148234B2
STEP 1. 2-{4-[(6-Chloro-5-methyl-3-nitro-2-pyridinyl)amino]phenyl}ethanol
The title compound was prepared according to the procedure described in step 1 of Example 34 from 2,6-dichloro-5-methyl-3-nitropyridine (Horn, U.; Mutterer, F.; Weis, C. D. Helv. Chim. Acta., 1976, 59,190.) and 4-aminophenylethyl alcohol.

reactant | 2,6-dichloro-5-methyl-3-nitropyridine | ClC1=NC(=C(C=C1[N+](=O)[O-])C)Cl | C6H4Cl2N2O2
reactant | 4-aminophenylethyl alcohol | NC1=CC=C(C=C1)CCO | C8H11NO
product | 2-{4-[(6-Chloro-5-methyl-3-nitro-2-pyridinyl)amino]phenyl}ethanol | ClC1=C(C=C(C(=N1)NC1=CC=C(C=C1)CCO)[N+](=O)[O-])C | C14H14ClN3O3
